US07569578B2
4-tert-Butyl 1-methyl 2-((7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)methyl)succinate
To a solution of 4-tert-butyl 1-methyl 2-((7-methyl-1H-indazol-5-yl)methyl)succinate (0.6053 g, 1.82 mmol) and N-cyclohexyl-N-methylcyclohexanamine (0.4686 mL, 2.19 mmol) in tetrahydrofuran (10 mL) was added trimethylsilylethoxymethyl chloride (0.3859 mL, 2.19 mmol) at room temperature under nitrogen. The reaction was stirred overnight and the solvent was removed in vacuo. The crude product was taken up in ethyl acetate (10 mL) and washed with water (3×5 mL). The ethyl acetate layer was dried, filtered and concentrated. The final product was obtained by flash chromatography, eluting with 0% to 20% ethyl acetate/hexane. (0.5873 g, 70%) HPLC tR=1.89 min, MS(ESI)[M+H]+=462.94.

reactant | 4-tert-butyl 1-methyl 2-((7-methyl-1H-indazol-5-yl)methyl)succinate | 1.82 mmol, 0.6053 g | CC=1C=C(C=C2C=NNC12)CC(C(=O)OC)CC(=O)OC(C)(C)C | C18H24N2O4
reactant | N-cyclohexyl-N-methylcyclohexanamine | 2.19 mmol, 0.4686 mL | C1(CCCCC1)N(C1CCCCC1)C | C13H25N
reactant | trimethylsilylethoxymethyl chloride | 2.19 mmol, 0.3859 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-tert-Butyl 1-methyl 2-((7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)methyl)succinate | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)CC(C(=O)OC)CC(=O)OC(C)(C)C | C24H38N2O5Si
